US06197798B1
To a solution of 6-methyl-4′-trifluoromethylbiphenyl-2-carboxylic acid [2-(2-pyridylmethylamino)-indan-5-yl] amide (the compound of Example 20f, 0.4 g, 0.8 mmol) in methylene chloride (5 mL) is added triethylamine (0.12 g, 1.15 mmol) and paraformaldehyde (0.024 g, 0.8 mmol). The mixture is stirred for two hours and then sodium triacetoxyborohydride (0.24 g, 1.12 mmol) is added. The mixture is stirred overnight and then washed with dilute sodium bicarbonate, dried over sodium sulfate, and evaporated. The residue is purified by flash chromatography (SiO2; ethyl acetate) to afford 6-methyl-4′-trifluoromethylbiphenyl-2-carboxylic acid [2[(2-pyridylmethyl)(methyl)amino]-indan-5-yl] amide as a white solid, mp 105-115°.

reactant | 6-methyl-4′-trifluoromethylbiphenyl-2-carboxylic acid [2-(2-pyridylmethylamino)-indan-5-yl] amide | N1=C(C=CC=C1)CNC1CC2=CC=C(C=C2C1)NC(=O)C=1C(=C(C=CC1)C)C1=CC=C(C=C1)C(F)(F)F | C30H26F3N3O
reactant | triethylamine | 1.15 mmol, 0.12 g | C(C)N(CC)CC | C6H15N
reactant | paraformaldehyde | 0.8 mmol, 0.024 g | C=O | CH2O
reactant | sodium triacetoxyborohydride | 1.12 mmol, 0.24 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | 6-methyl-4′-trifluoromethylbiphenyl-2-carboxylic acid [2[(2-pyridylmethyl)(methyl)amino]-indan-5-yl] amide | N1=C(C=CC=C1)CN(C1CC2=CC=C(C=C2C1)NC(=O)C=1C(=C(C=CC1)C)C1=CC=C(C=C1)C(F)(F)F)C | C31H28F3N3O
